US05650411
To a stirred and cooled (<10° C.) mixture of 150 g of ethyl 4-(2-pyridinyl)-1-piperazinecarboxylate and 1535 ml of carbon sulfide were added dropwise 32.8 ml of bromine. Upon completion, stirring was continued for 18 hours, while meantime the mixture was allowed to reach room temperature. At a temperature below 20° C., there was added a solution of 70 g of sodium hydroxide solution 10N in 300 ml of water. After stirring for 3 hours at room temperature, the layers were separated. The aqueous phase was extracted twice with trichloromethane. The combined organic phases were washed with water, dried, filtered and evaporated. 46 ml of benzene were added to the residue and the whole was evaporated again. Upon standing for 48 hours, the product was solidified. The oily phase was decanted and the solid product was crystallized twice from 2,2'-oxybispropane at 10° C. It was filtered off and dried, yielding 100 g of ethyl 4-(5-bromo-2-pyridinyl)-1-piperazinecarboxylate; mp. 68° C. (interm. 11).

reactant | ethyl 4-(2-pyridinyl)-1-piperazinecarboxylate | 150 g | N1=C(C=CC=C1)N1CCN(CC1)C(=O)OCC | C12H17N3O2
reactant | carbon sulfide | 1535 ml | [C]=S | CS
reactant | bromine | 32.8 ml | BrBr | Br2
reactant | sodium hydroxide | 10N, 70 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | ethyl 4-(5-bromo-2-pyridinyl)-1-piperazinecarboxylate | 100 g | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC | C12H16BrN3O2
